US05998477
1.19 g (5.0 mmol) of 5,6-difluoro-2-methylindene-3-acetic acid methyl ester is dissolved in 10 ml of dry pyridine followed by 0.98 g (5.0 mmol) of 3,4,5-trimethoxy-benzaldehyde. The flask is placed under nitrogen, and 5.0 g (5.1 mol) of Triton B is added. The deeply colored solution is allowed to stand overnight, and then water (2 ml) is added. After standing for 15 minutes, it is poured into an excess of water. The organics are extracted with ether (2×50 ml). The aqueous phase is added to 10% HCl-ice. The orange, gummy solid that precipitates is extracted into methylene chloride and dried (MgSO4). The solvent is removed to leave an orange solid. The solid is filtered to give a crude product which is recrystallized to give 5,6-difluoro-2-methyl-1-(3,4,5-trimethoxy-benzylidene)indene-3-acetic acid. When 2,4,6-trimethoxybenzaldehyde or 2,4,5-trimethoxybenzdehyde is utilized in the above procedure, instead of 3,4,5--trimethoxy-benzaldehyde, the corresponding indene acetic acid is obtained. (R and R1 =H, R2 and R3 =F, R4 =H, R5, R6 and R7 =OCH3, R8 =CH3, o=1, M=OH)

reactant | 5,6-difluoro-2-methylindene-3-acetic acid methyl ester | 5.0 mmol, 1.19 g | COC(CC1=C(CC2=CC(=C(C=C12)F)F)C)=O | C13H12F2O2
reactant | 3,4,5-trimethoxy-benzaldehyde | 5.0 mmol, 0.98 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | water | 2 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5,6-difluoro-2-methyl-1-(3,4,5-trimethoxy-benzylidene)indene-3-acetic acid | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC(=C(C(=C1)OC)OC)OC)C)CC(=O)O | C22H20F2O5
